US06521643B1
To a suspension of 2-bromo-4-methoxypyridine (1.88 g), 2-methylphenylboronic acid (1.77 g) and tetrakis(triphenylphosphine)-palladium (578 mg) in 1,2-dimethoxyethane (30 ml) was added 2M aqueous solution of sodium carbonate (13 ml). The mixture was stirred at 80° C. for 7 hours under a nitrogen atmosphere, then cooled to room temperature and diluted with ethyl acetate. The organic layer was separated, washed with water and brine and dried over sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 50 g, 25% ethyl acetate in n-hexane) to give 2-(4-methoxypyridin-2-yl)toluene (1.98 g).

reactant | 2-bromo-4-methoxypyridine | 1.88 g | BrC1=NC=CC(=C1)OC | C6H6BrNO
reactant | 2-methylphenylboronic acid | 1.77 g | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | sodium carbonate | 13 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 30 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)-palladium | 578 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(4-methoxypyridin-2-yl)toluene | 1.98 g | COC1=CC(=NC=C1)C1=C(C=CC=C1)C | C13H13NO
